US04831031
6-(2-(4-(1-Naphthyl)piperazinyl)ethyl)-benzoxazolone
To a 100 ml round-bottomed flask equipped with magnetic stirrer, condenser, and nitrogen inlet were added 0.618 g (2.10 mmol) of N-(1-naphthyl)piperazine, 0.472 g (1.95 mmol) of 6-(2-bromoethyl)benzoxazolone, 0.411 ml (2.92 mmol) of triethylamine, 50 ml ethanol, and a catalytic amount of sodium iodide. The reaction was refluxed for 3 days, cooled, and evaporated to a brown gum. The gum was partitioned between 50 ml water and 75 ml methylene chloride, the pH adjusted with aqueous 1N NaOH solution, and a little methanol added to facilitate phase separation. The methylene chloride layer was dried over sodium sulfate and evaporated, then chromatographed on silica gel. Fractions containing the product were combined and evaporated, the residue taken up in ethyl acetate, treated with hydrochloride gas, and the resulting hydrochloride salt of the product filtered off to give the white solid title compound, m.p. 282°-285° C., 213 mg (23% yield).

reactant | N-(1-naphthyl)piperazine | 2.10 mmol, 0.618 g | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | 6-(2-bromoethyl)benzoxazolone | 1.95 mmol, 0.472 g | BrCCC1=CC2=C(NC(O2)=O)C=C1 | C9H8BrNO2
reactant | triethylamine | 2.92 mmol, 0.411 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(2-(4-(1-Naphthyl)piperazinyl)ethyl)-benzoxazolone | 23% yield | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCC1=CC2=C(NC(O2)=O)C=C1 | C23H23N3O2
